US05733905
N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-chlorobenzamide
To a solution of 347 mg of 2-chlorobenzoyl chloride in 5 ml of methylene chloride at 0° C. is added 346 μl of triethylamineo After stirring for 3 minutes, 500 mg of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added. The bath is removed and the reaction mixture stirred at room temperature for 18 hours. The volatiles are concentrated in vacuo to give a residue which is dissolved in methylene chloride, washed with water, 2N citric acid, 1M NaHCO3 and brine. The organic layer is dried with Na2SO4, filtered and concentrated in vacuo to give a residue which is crystallized from methylene chloride to give 525 mg of the desired product as a white crystalline solid, m.p. 228°-230° C.

reactant | 2-chlorobenzoyl chloride | 347 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 500 mg | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-chlorobenzamide | 525 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)Cl)=O | C26H20ClN3O2
